Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Trilafon / Paregoric / Pepto-Bismol / Depakote / Tegretol / 
Bromocriptine / Darvocet-N 50 / Clozaril / haloperidol
 
Attending: ___
 
Chief Complaint:
"I'm feeling kinda depressed...my memories of childhood
having flashbacks of my father things he did was awful..I was
having seizures and stuff I started reading and things were
blurry and I was dropping things and they were slipping out of 
my
hands...today I feel sh---y."

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ yo woman, well known to Deaconess ___, 
previously diagnosed with schizoaffective disorder, s/p numerous 
psychiatric hospitalizations, complex partial seizures who was 
referred to the ED for evaluation for ongoing seizure activity. 
.
Upon initial interview, patient reports that she has been having 
increasing seizures for the past month. She reports that during 
the episode she will "fade out", have trouble reading due to 
blurry vision, vertigo and slurry speech and related falls. She 
also reported ongoing auditory hallucinations telling her to 
bite herself and had said that she needed to be "sectioned".
.
Ms. ___ reports that she has been having "flashbacks" of her 
childhood abuse perpetrated by her father triggered by the 
Holidays and watching children play with toys. She said "today I 
fel sh---y when the seizure started I kept blurring in and out 
and the depression started with the Holiday Season."
She states she spent ___ at her sister's and felt that 
her sister was ___ and said " I couldn't stand it and 
it gets me angry". She also said that her brother was irritating 
her and she felt the urge " to smash him or break something."
.
She reports that she is having a flashback of one holiday when 
her father was fighting over cider because he wasn't served 
first and he threw her bother on the porch and his shoes after 
him. She said "my father was an ___
The patient was not able to provide further details of what 
other things might be triggering her today but reports that with 
the increased in seizure activity she has been having difficulty 
remembering things, focussing has felt dizzy.
.
She denies problems or changes in her sleep, reports decreased 
appetite, poor energy, increased depression abnd irritability 
and feels suicidal with no plan.
. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations:Multiple, the most recent @ ___
___ and admitted to ___ ___ ? discharge
dates, over the years she has been admitted to ___
this past ___.
___ in ___ after cutting her wrist with
a safety pin while in a waiting room.
Current treaters and ___ ? last name, NP @ ___, Therapist ___ @ ___ in
___
Medication and ECT trials:
Self-injury:hx of cutting an biting herself
Harm to others:Reported trying to kill her father by smashing 
his head against the ground in ___ after she was committed to
a ___ hospital.
Access to weapons: denies access to guns

PAST MEDICAL HISTORY:
PCP ___ ___
Neurologist Dr. ___ ___
                                  
COMPLEX PARTIAL SEIZURE DISORDER                                
HEADACHE                                              
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
HYPOTHYROIDISM                                                  
KNEE PAIN                                                       
LEG PAIN                                                        
MORBID OBESITY                                                  
MUSCULOSKELETAL CHRONIC PARANOID                                
COMPLEX PARTIAL SEIZURE DISORDER                                
HEADACHE                                                     
MORBID OBESITY                                                  
MUSCULOSKELETAL PAIN                                            
NAUSEA                                               
PPD POSITIVE                                                    
SYSTOLIC MURMURS                                                
URINARY INCONTINENCE                                            
OBSTRUCTIVE SLEEP APNEA                                         
___                                                             
CERVICALGIA                                                     
MIGRAINES                                                       
UTI                                                             
OLIGOMENORRHEA                                                  
PPD POSITIVE                                                    
SYSTOLIC MURMURS               
 
Social History:
___
Family History:
* Father with suspected bipolar do
* Brother {___} with schizophrenia {deceased}
* Brother {___} with developmental delay

 
Physical Exam:
VS:  BP:140/77    HR:88   temp:99.1    resp:16  O2 sat:100% RA  

Neurological:  
 *station and gait:unsteady ambulates with a walker 
 *tone and ___ strength in upper extremeties, lower
extremeties with bilateral edema
 cranial nerves: not assessed
 abnormal movements: none noted
 frontal release:not assessed

Cognition: 
 Wakefulness/alertness:alert
 *Attention (digit span, MOYB):MOYB
 *Orientation:" the ___ ___, its ___ I don't know the
date" US.Pres."___"
 Executive function (go-no go, Luria, trails, FAS):not assessed
 *Memory: 2 out of 3 in 5"  
 *Fund of knowledge:wnl " the war in ___ and able to
name ___  
 Calculations: 9 quarters =$2.25 
 Abstraction: statues/paintings "art"
 Visuospatial: not assessed
 *Speech: somewhat difficult to understand sec to teeth missing
reports she is currently being treated for an oral abscess
 *Language: intact
 
Mental Status:
 *Appearance: ___ yo cauc. overweight female with disconjugate
gaze, wearing glasses with very short hair and fair hygiene and
grooming, dressed in hospital gown and holding a small child's
football and wearing a soft cervical collar
 Behavior:calm and good control 
 *Mood and Affect:depressed and reports that she feels irritable
but has full range
 *Thought process / *associations: for the most part linear,
somewhat tangential and is easily derailed  
 *Thought Content: reports that she is hearing voices "to bite
myself" denies VH, reports paranoid ideation of thinking that
people are talking about her
 *Judgment and Insight: limited/poor

 
Pertinent Results:
___ 05:25PM   GLUCOSE-106* UREA N-7 CREAT-0.9 SODIUM-139 
POTASSIUM-3.5 CHLORIDE-103 TOTAL CO2-26 ANION GAP-14
___ 05:25PM   ALT(SGPT)-15 AST(SGOT)-25 ALK PHOS-122* TOT 
BILI-0.4
___ 05:25PM   CALCIUM-9.5 PHOSPHATE-3.7 MAGNESIUM-2.0
___ 05:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:25PM   WBC-5.1 RBC-4.02* HGB-12.0 HCT-34.0* MCV-85 
MCH-29.8 MCHC-35.2* RDW-13.2
___ 05:25PM   NEUTS-69.4 ___ MONOS-6.1 EOS-1.0 
BASOS-0.3
___ 05:25PM   PLT COUNT-235
___ 02:55PM URINE  HOURS-RANDOM
___ 02:55PM URINE  UHOLD-HOLD
___ 02:55PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 02:55PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
Legal/Safety: The patient was admitted on a ___ and 
signed a CV once on the unit. She remained in good behavioral 
control throughout this hospitalization and did not require 
physical or chemical restraint. The patient remained on 15 
minute checks, which is our lowest acuity level of checks.

PSYCHIATRIC
#)On admission, the patient reported more "spacing out" that she 
attributed to seizures as well as confusion and auditory 
hallucinations to harm herself.
During hospitalization, we decreased her lamictal, gabapentin 
and seroquel due to concerns that this was causing an 
encephalopathy. With these medication changes Ms. ___ felt much 
better. 
On discharge, mood was good, MSE was pertinent for mostly linear 
thought process with some tangential thoughts and perseveration. 
She denied SI or AVH.

GENERAL MEDICAL CONDITIONS
#)UTI: patient was recently diagnosed with a UTI and prescribed 
bactrim. This course was completed while admitted
#)HTN: Patient was continued on her home medications and blood 
pressure was well controled
#)Questions of Complex Partial Seizures: no seizures noted while 
admitted
#)Hypothyroidism: Continued home dose of levothyroxine

PSYCHOSOCIAL
#) MILIEU/GROUPS
The patient was highly animated, euthymic, and participatory in 
the milieu. The patient was very visible on the unit and 
frequently had conversations with her peers. She attended most 
groups. She never engaged in any unsafe behaviors. The pt ate 
all meals in the milieu, slept well, and cooperated with unit 
rules.

RISK ASSESSMENT:
This patient does not abuse substances, is not 
suicidal/homicidal, is feeling well and is animated, euthymic, 
and participatory in the milieu, all of which indicate a low 
immediate risk of harm.
Despite history of assaultive behaviors, recent episodes of 
agitation, active psychosis, current risk of harm to others is 
low/moderate given calm demeanor and well controled underlying 
mental illness.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 2 
puffs q4-6 hours cough/wheezing 
2. QUEtiapine extended-release 400 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN pain/fever 
4. Benztropine Mesylate 1 mg PO BID 
5. Vitamin D 1000 UNIT PO DAILY 
6. Diltiazem Extended-Release 180 mg PO DAILY 
7. Gabapentin 900 mg PO TID 
8. HydrOXYzine 50 mg PO QHS:PRN anxiety/insomnia 
9. LaMOTrigine 250 mg PO BID 
10. Levothyroxine Sodium 75 mcg PO DAILY 
11. Meclizine 25 mg PO TID:PRN vertigo 
12. Multivitamins 1 TAB PO DAILY 
13. Naproxen 375 mg PO BID:PRN pain 
14. Prochlorperazine 10 mg PO TID:PRN nausea/abdominal pain 
15. Famotidine 20 mg PO BID:PRN reflux 
16. Senna 8.6 mg PO BID:PRN constipation 
17. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
18. Sulfameth/Trimethoprim DS 1 TAB PO BID 
19. Penicillin V Potassium 500 mg PO QID 
20. ARIPiprazole 30 mg PO DAILY 
21. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain/fever 
2. Diltiazem Extended-Release 180 mg PO DAILY 
3. Famotidine 20 mg PO BID:PRN reflux 
4. Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
5. HydrOXYzine 50 mg PO QHS:PRN anxiety/insomnia 
6. LaMOTrigine 200 mg PO BID 
RX *lamotrigine 200 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
7. Levothyroxine Sodium 75 mcg PO DAILY 
8. Meclizine 25 mg PO TID:PRN vertigo 
9. Naproxen 375 mg PO BID:PRN pain 
10. Senna 8.6 mg PO BID:PRN constipation 
11. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 2 
puffs q4-6 hours cough/wheezing 
14. QUEtiapine Fumarate 300 mg PO QHS 
RX *quetiapine [Seroquel] 100 mg 3 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0
15. Multivitamins 1 TAB PO DAILY 
16. ARIPiprazole 30 mg PO DAILY 
17. Atorvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
medication induced encephalopathy
schizoaffective disorder-Bipolar type

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 

 
Followup Instructions:
___